US08895745B2
Step Two—1-Dimethylsulfamoyl-1H-pyrazole-4-boronic acid
Methyl lithium (1.6M in Et2O, 12.2 ml, 19.5 mmol) was added to a stirred solution of 4-bromo-pyrazole-1-sulfonic acid dimethylamide (3.18 g, 14.9 mmol) and triethyl borate (3.80 ml, 22.3 mmol) in anhydrous THF (40 ml), such that the internal temperature remained >-60° C. After 30 min, the reaction was allowed to warm to room temperature and stirred for 18 h. The reaction was quenched with 2N HCl (25 ml), then extracted with EtOAc (×3). The organic extracts were combined, dried (Na2SO4), filtered and the solvent removed in vacuo. The material was purified by silica column chromatography to afford a colourless gum (2.1 g). MS: [M+H]+=220

reactant | Methyl lithium | 19.5 mmol, 1.6M, 12.2 ml | C[Li]
reactant | 4-bromo-pyrazole-1-sulfonic acid dimethylamide | 14.9 mmol, 3.18 g | CN(S(=O)(=O)N1N=CC(=C1)Br)C | C5H8BrN3O2S
reactant | triethyl borate | 22.3 mmol, 3.80 ml | B(OCC)(OCC)OCC | C6H15BO3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-Dimethylsulfamoyl-1H-pyrazole-4-boronic acid | 2.1 g | CN(S(=O)(=O)N1N=CC(=C1)B(O)O)C | C5H10BN3O4S
